US06403596B1
2-Oxo-5-[2-(phenylamino)-pyrimidin-4-yl]-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile
To 5-(2-methylsulfonylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile (160 mg, 0.35 mmol) in DMF, under argon, was added a prepared mixture of aniline (129 μL, 1.30 mmole) and potassium bis(trimethylsilyl)amide (0.5M in toluene) (2.6 mL, 1.30 mmole) under argon. The reaction was stirred for 15 minutes and then quenched into ethyl acetate and water. The pH was adjusted to 5.4 with aqueous potassium hydrogen sulfate solution and the ethyl acetate layer removed and concentrated to give a solid. Trituration of the solid from methanol (4 mL) gave 80 mg of a solid.

reactant | 5-(2-methylsulfonylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile | 0.35 mmol, 160 mg | CS(=O)(=O)C1=NC=CC(=N1)C=1C=C(C(NC1C1=CC(=CC=C1)C(F)(F)F)=O)C#N | C18H11F3N4O3S
reactant | aniline | 1.30 mmole, 129 μL | NC1=CC=CC=C1 | C6H7N
reactant | potassium bis(trimethylsilyl)amide | 1.30 mmole, 0.5M, 2.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methanol | 4 mL | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Oxo-5-[2-(phenylamino)-pyrimidin-4-yl]-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile | 80 mg | O=C1NC(=C(C=C1C#N)C1=NC(=NC=C1)NC1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F | C23H14F3N5O
